US08492378B2
N′-[3-[3-(trifluoromethyl)phenyl]propionyl]-1H-indazole-5-carbohydrazide
To a solution of 3-[3-(trifluoromethyl)phenyl]propionic acid (437 mg, 2.00 mmol) and N,N-dimethylformamide (1 drop) in tetrahydrofuran (4 mL) was added oxalyl chloride (0.183 mL, 2.10 mmol) at room temperature, and the resulting mixture was stirred for 30 min. The reaction mixture was added dropwise to a mixture of 1H-indazole-5-carbohydrazide (352 mg, 2.00 mmol), tetrahydrofuran (10 mL) and saturated aqueous sodium hydrogen carbonate solution (10 mL) at room temperature, and the resulting mixture was stirred for 2 hr. The reaction mixture was diluted with ethyl acetate, washed with water and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was recrystallized from hexane/ethanol to give the title compound (383 mg, yield 51%) as colorless crystals.

reactant | 3-[3-(trifluoromethyl)phenyl]propionic acid | 2.00 mmol, 437 mg | FC(C=1C=C(C=CC1)CCC(=O)O)(F)F | C10H9F3O2
reactant | oxalyl chloride | 2.10 mmol, 0.183 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1H-indazole-5-carbohydrazide | 2.00 mmol, 352 mg | N1N=CC2=CC(=CC=C12)C(=O)NN | C8H8N4O
reactant | sodium hydrogen carbonate | 10 mL | C(O)([O-])=O.[Na+]
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | N′-[3-[3-(trifluoromethyl)phenyl]propionyl]-1H-indazole-5-carbohydrazide | 383 mg, yield 51% | FC(C=1C=C(C=CC1)CCC(=O)NNC(=O)C=1C=C2C=NNC2=CC1)(F)F | C18H15F3N4O2
